US05641625
Alanine benzyl ester (10)
Thionylchloride (9.8 ml, 135 mmol, 1.2 eqv) was added dropwise during 15 min. to benzyl alcohol (210 ml) stirred under nitrogen and cooled to -10° C. Alanine (10.0 g, 112 mmol, 1.0 eqv) was added in portions during 10 min. The reaction mixture was heated overnight at 60°-70° C. The reaction mixture was evaporated in vacuo and the residue was dissolved in water (150 ml). The pH was adjusted to 1-2 by addition of 4N HCl (aq.) and the aqueous phase was extracted with dichloromethane (2×200 ml). The organic phase was washed with hydrochloric acid (pH 1, 1×50 ml). The aqueous phases were collected, alkalinized (to pH 9-10) by addition of 2N NaOH (aq.) and subsequently extracted with dichloromethane (2×200 ml and 1×100 ml--alkaline extract). The alkaline extract was dried (Na2SO4), filtered and evaporated under reduced pressure affording 13.39 g (67%) of the title compound as a colorless oil. The product was characterized as its hydrochloride: The product (0.50 g, 2.8 mmol) was dissolved in ether (5 ml) and HCl in ether (2 ml) was added. The precipitate was collected by filtration and washed with ether (2×5 ml) yielding 0.57 g (95%) of white crystalline alanine benzyl ester hydrochloride. 1H-NMR (D2O/TMS): δ1.48 (unresolved d, 3H, Me); 4.15 (unresolved q, 1H, CH); 5.20 (s, 2H, CH2); 7.38 (br s, 5H, Ph). 13C-NMR (D2O/TMS): δ14.7 (Me); 48.4 (CH); 68.1 (CH2); 128.1, 128.5, 134.3 (Ph); 170.1 (C=O). MS(FAB+) m/z (%): 180 (100, M-HCl+H). Anal. Calcd. for C10H14ClNO2 : C, 55.69; H, 6.54; N, 6.49. Found: C, 55.60; H, 6.56; N, 6.40.

reactant | Thionylchloride | 135 mmol, 9.8 ml, 1.2 eqv | S(=O)(Cl)Cl | Cl2OS
reactant | Alanine | 112 mmol, 10.0 g, 1.0 eqv | N[C@@H](C)C(=O)O | C3H7NO2
reactant | benzyl alcohol | 210 ml | C(C1=CC=CC=C1)O | C7H8O
product | Alanine benzyl ester | 13.39 g, 67% | C(C1=CC=CC=C1)OC([C@@H](N)C)=O | C10H13NO2
